US07615562B2
Step A: 3-{4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propionic acid
The title compound was prepared from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 4-(2-carboxyethyl)phenylboronic acid according to Method C (Example 178). Yield: 1.4 g (100%).

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 4-(2-carboxyethyl)phenylboronic acid | C(=O)(O)CCC1=CC=C(C=C1)B(O)O | C9H11BO4
product | 3-{4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propionic acid | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)CCC(=O)O)(C)C)C | C22H30N4O2
